US07553848B2
6-Bromo-naphthalene-2-carboxylic acid (2-acetylamino-benzothiazol-4-yl)-amide.
This material was prepared analogous to the procedure described for Example 1(b). 6-Bromo-naphthalene-2-carbonyl chloride, Example 1(a), (98 mg, 0.36 mmol) reacted with N-(4-amino-benzothiazol-2-yl)-acetamide (50 mg, 0.24 mmol, prepared according to the procedure described in WO03099284) to give the title compound as a solid. Mp 241.6° C. MS (ESI, pos. ion.) m/z: 441 (M+1).

reactant | 6-Bromo-naphthalene-2-carbonyl chloride | BrC=1C=C2C=CC(=CC2=CC1)C(=O)Cl | C11H6BrClO
reactant | N-(4-amino-benzothiazol-2-yl)-acetamide | NC1=CC=CC2=C1N=C(S2)NC(C)=O | C9H9N3OS
product | 6-Bromo-naphthalene-2-carboxylic acid (2-acetylamino-benzothiazol-4-yl)-amide | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)NC(=O)C2=CC1=CC=C(C=C1C=C2)Br | C20H14BrN3O2S
